* Z:\home\user\Documents\optma\meow-sim\src\blocks\ltspice_runner\test_data\Transmissor.asc
V1 Feed 0 7
V2 Data 0 PWL file=TX_input.txt
R2 N003 0 1k
R3 N004 0 330
R1 Feed N003 1k
Q1 N001 N003 N004 0 2N2222
Q3 N001 N002 0 0 2N2222
Q2 N002 N002 0 0 2N2222
D1 Feed N001 NSPW500BS
R4 Data N002 220
.model D D
.lib C:\users\user\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\user\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 200ms
.backanno
.end
